US07321050B2
Experiment 26. 1-(2,6-Difluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene (32B).
This compound was synthesized from (3,5-dimethoxy-4-i-propylphenyl)ethene and 1-bromo-2,6-diflurobenzene quantitatively in the same procedure as described in preparation of 31B. 1HNMR (CDCl3, ppm): δ 1.32 (d, J=7.1 Hz, 6H), 3.62 (qint, J=7.1 Hz, 1H), 3.90 (s, 6H), 6.73 (s, 2H), 6.8-7.2 (m, 4H), 7.41 (d, J=16.6 Hz, 1H).

reactant | (3,5-dimethoxy-4-i-propylphenyl)ethene | COC=1C=C(C=C(C1C(C)C)OC)C=C | C13H18O2
reactant | 1-bromo-2,6-diflurobenzene | BrC1=C(C=CC=C1F)F | C6H3BrF2
product | 1-(2,6-Difluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene | FC1=C(C(=CC=C1)F)C=CC1=CC(=C(C(=C1)OC)C(C)C)OC | C19H20F2O2
